US08012974B2
2-Bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine (0.328 g, 1.00 mmol) was dissolved in DMSO (2.5 mL). A solution of methylamine (33 wt % in EtOH, 2.5 mL, 20 mmol) was added and the resulting solution was heated at 150° C. in the sealed tube overnight, then cooled to RT. The reaction mixture was partitioned between EtOAc and H2O. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated to give a mixture of impure Methyl-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-amine, which was dissolved in 1,2-dichloroethane (3 mL). Cyclohexylisocyanate (0.38 mL, 3.00 mmol) was added and the reaction mixture was heated to reflux overnight, cooled to RT, concentrated, purified by SiO2 chromatography (12 g SiO2, hexanes/EtOAc 0-35% EtOAc) to give 0.110 g of 3-cyclohexyl-1-methyl-1-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea as a yellow solid (27% yield).

reactant | 2-Bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine | 1.00 mmol, 0.328 g | BrC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C | C12H18BrN3OSi
reactant | methylamine | 20 mmol, 2.5 mL | CN | CH5N
reactant | Methyl-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-amine | CNC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C | C13H22N4OSi
reactant | Cyclohexylisocyanate | 3.00 mmol, 0.38 mL | C1(CCCCC1)N=C=O | C7H11NO
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | 3-cyclohexyl-1-methyl-1-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.110 g, 27% yield | C1(CCCCC1)NC(N(C=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C)C)=O | C20H33N5O2Si
